US08802659B2
3-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-amino}-propionic acid
Synthesized as per 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid using the appropriate intermediate available from the synthesis of 3-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-methyl-quinolin-2-ylmethyl]-amino}-propionic acid.) ESI-MS (M+H+): 425.3; 1H NMR (400 MHz, METHANOL-d4) Shift 8.00 (d, J=9.29 Hz, 1H), 7.72 (d, J=2.51 Hz, 1H), 7.43 (dd, J=2.64, 9.16 Hz, 1H), 7.14 (s, 1H), 4.50 (s, 2H), 4.40-4.49 (m, 1H), 3.44 (t, J=6.78 Hz, 2H), 2.87 (t, J=6.65 Hz, 2H), 2.44-2.54 (m, 1H), 2.32 (d, J=11.04 Hz, 2H), 1.91-1.99 (m, 2H), 1.42-1.54 (m, 2H), 1.21-1.36 (m, 4H), 1.07-1.21 (m, 1H), 0.94 (s, 9H), 0.84-0.92 (m, 2H).

reactant | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CN1CC(C1)C(=O)O)C1CC1 | C27H36N2O3
reactant | 3-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-methyl-quinolin-2-ylmethyl]-amino}-propionic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CNCCC(=O)O)C | C24H34N2O3
product | 3-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-amino}-propionic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CNCCC(=O)O)C1CC1 | C26H36N2O3
